US08114886B2
4-Methyl-5-[(phenylsulfonyl)(2,3,6-trifluorophenyl)methyl]pyridine-2-carboxamide
To a solution of 4-methyl-5-[(phenylsulfonyl)(2,3,6-trifluorophenyl)methyl]pyridine-2-carboxylic acid (300 mg, 0.71 mmol) in N,N-dimethylformamide (6 ml), (benzotriazol-1-yloxy)tripyrrolidinophosphonium hexafluorophosphate (556 mg, 1.07 mmol), benzotriazol-1-ol (144 mg, 1.07 mmol), ammonium chloride (76 mg, 1.42 mmol), and N-ethyldiisopropylamine (0.5 ml, 2.85 mmol) were added in an Argon atmosphere at room temperature. After stirring for 3 hours at room temperature, ethyl acetate and water were added to the reaction mixture, and the mixture was extracted with ethyl acetate, and then was washed with saturated brine. The organic layer was dried over anhydrous sodium sulfate and filtered, subsequently the filtrate was concentrated under reduced pressure, and the resulting residue was washed with diethyl ether, and then was collected by filtration, to obtain the title compound (227 mg, 0.54 mmol, 76%) as a white solid.

reactant | 4-methyl-5-[(phenylsulfonyl)(2,3,6-trifluorophenyl)methyl]pyridine-2-carboxylic acid | 0.71 mmol, 300 mg | CC1=CC(=NC=C1C(C1=C(C(=CC=C1F)F)F)S(=O)(=O)C1=CC=CC=C1)C(=O)O | C20H14F3NO4S
reactant | (benzotriazol-1-yloxy)tripyrrolidinophosphonium hexafluorophosphate | 1.07 mmol, 556 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
reactant | benzotriazol-1-ol | 1.07 mmol, 144 mg | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | ammonium chloride | 1.42 mmol, 76 mg | [Cl-].[NH4+]
reactant | N-ethyldiisopropylamine | 2.85 mmol, 0.5 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Methyl-5-[(phenylsulfonyl)(2,3,6-trifluorophenyl)methyl]pyridine-2-carboxamide | 0.54 mmol, 227 mg, 76% | CC1=CC(=NC=C1C(C1=C(C(=CC=C1F)F)F)S(=O)(=O)C1=CC=CC=C1)C(=O)N | C20H15F3N2O3S
